US07030118B2
A) Methyl 1-amino-3-chloro-1H-pyrrole-2-carboxylate, hydrochloride salt
A mixture of sodium hydride (60%, 0.8 g, 20 mmol) and methyl 3-chloro-1H-pyrrole-2-carboxylate (Tetrahedron, 1999, 55, 4133–4152; 2.5 g, 15.7 mmol) in DMF (10 mL) at 0° C. was stirred for 25 min, then was added 2,4-dinitrophenolamine (Tetrahedron Lett. 1968, 16, 1909–1910 and J. Heterocyclic Chem. 1967, 413, 3.80 g, 19.1 mmol) and the reaction mixture was stirred at 0–5° C. for 2.5 h. The mixture was diluted with 10% aqueous LiCl solution and the product was extracted with EtOAc (3×100 mL). The EtOAc solution was washed with 10% LiCl solution (2×80 mL), brine (80 mL), dried over MgSO4 and concentrated in vacuo to give the crude product as a brown oil. The crude product was treated with 4 N HCl in dioxane (2 mL) in Et2O (60 mL). The precipitated solid was collected, washed with Et2O and dried in vacuo to obtain the title compound (3.30 g, 99%): 1H NMR (DMSO-d6) δ 7.17 (d, 1H, J=2.2 Hz), 6.68 (d, 1H, J=2.2 Hz), 3.74 (s, 3H).

reactant | sodium hydride | 20 mmol, 0.8 g | [H-].[Na+]
reactant | methyl 3-chloro-1H-pyrrole-2-carboxylate | 15.7 mmol, 2.5 g | ClC1=C(NC=C1)C(=O)OC | C6H6ClNO2
reactant | HCl | 4 N | Cl | ClH
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | LiCl | [Li+].[Cl-]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | Et2O | 60 mL | CCOCC | C4H10O
product | Methyl 1-amino-3-chloro-1H-pyrrole-2-carboxylate, hydrochloride salt | 3.30 g, 99% | Cl.NN1C(=C(C=C1)Cl)C(=O)OC | InChI=1S/C6H7ClN2O2.ClH/c1-11-6(10)5-4(7)2-3-9(5)8;/h2-3H,8H2,1H3;1H
